US03963728
14.2 g. of ethyl palmitate and 2 g. of hydroxylamine are reacted at room temperature in 300 ml. of ethanol in the presence of 1.7 g. of the sodium salt of 2-hydroxyquinoline. The reaction is complete in 5 hours, and 11.7 g. of palmitohydroxamic acid are obtained (yield: 85%), m.p. 100° - 101°C. after recrystallization from ethanol-petroleum ether(1:1).

reactant | ethyl palmitate | C(CCCCCCCCCCCCCCC)(=O)OCC | C18H36O2
reactant | hydroxylamine | NO | H3NO
reactant | sodium | [Na] | Na
reactant | 2-hydroxyquinoline | OC1=NC2=CC=CC=C2C=C1 | C9H7NO
solvent | ethanol | C(C)O | C2H6O
product | palmitohydroxamic acid | yield: 85% | C(CCCCCCCCCCCCCCC)(=O)NO | C16H33NO2
